US07569687B2
wherein R3 is C, N—CH3 or a direct C—C bond. The yield is modest (around 60% w/w yield). The patent discloses the reaction of 2α,3α-epoxy-16β-(1-pyrrolidinyl)-5α-androstan-17β-ol with morpholine in the presence of water to yield 2β-(4-morpholinyl)-16β-(1-pyrrolidinyl)-5α-androstan-3α,17β-diol. The step is conducted for a reaction time of three days after which the solvents are removed by evaporation and the final product is crystallized from acetone followed by further recrystallization from methanol.

reactant | 2α,3α-epoxy-16β-(1-pyrrolidinyl)-5α-androstan-17β-ol | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]1(C2)C)O)N2CCCC2 | C23H37NO2
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | water | O | H2O
product | 2β-(4-morpholinyl)-16β-(1-pyrrolidinyl)-5α-androstan-3α,17β-diol | N1(CCOCC1)[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)N1CCCC1)O | C27H46N2O3
